US06943183B2
Synthesis of (±)-6-[2-(2-Methyl-imidazol-yl)-1-phenyl-ethoxy]-5-phenethyl-3,4-dihydro-2H-naphthalen-1-one (Compound 63o)
The title compound was prepared using the procedure of Example 20, step 4 using 6-hydroxy-5-(2-phenyl-ethyl)-3,4-dihydro-2H-naphthalen-1-one and 2-methylimidazole.

reactant | 6-hydroxy-5-(2-phenyl-ethyl)-3,4-dihydro-2H-naphthalen-1-one | OC=1C(=C2CCCC(C2=CC1)=O)CCC1=CC=CC=C1 | C18H18O2
reactant | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
product | (±)-6-[2-(2-Methyl-imidazol-yl)-1-phenyl-ethoxy]-5-phenethyl-3,4-dihydro-2H-naphthalen-1-one | CC=1NC=C(N1)CC(OC=1C(=C2CCCC(C2=CC1)=O)CCC1=CC=CC=C1)C1=CC=CC=C1 | C30H30N2O2
